US06821967B2
a. 9-(4-bromo-butyl)-9H-fluorene-9-carboxylic acid-3,4-difluoro-benzylamide
Prepared analogously to Example 1 from 3,4-difluorobenzylamine and 9-(4-bromo-butyl)-9H-fluorene-9-carboxylic acid chloride.

reactant | 3,4-difluorobenzylamine | FC=1C=C(CN)C=CC1F | C7H7F2N
reactant | 9-(4-bromo-butyl)-9H-fluorene-9-carboxylic acid chloride | BrCCCCC1(C2=CC=CC=C2C=2C=CC=CC12)C(=O)Cl | C18H16BrClO
product | 9-(4-bromo-butyl)-9H-fluorene-9-carboxylic acid-3,4-difluoro-benzylamide | FC=1C=C(CNC(=O)C2(C3=CC=CC=C3C=3C=CC=CC23)CCCCBr)C=CC1F | C25H22BrF2NO
